US06906089B2
6-[2-(6-Methylpyridin-2-yl)-2-oxo-acetyl]quinoxaline
A stirred suspension of 6-(2-[6-methylpyridin-2-yl]-acetyl)quinoxaline (1.65 g, 6.3 mmole) in dry DMSO (50 ml) was heated to 70-80° C. (forming a yellow solution) and treated dropwise with aq. HBr (48%, 6 ml). After 2 h the solution was cooled, poured over ice-water and brought to pH 10 with K2CO3. Extraction with EtOAc (3×), drying over Na2SO4, filtration and concentration to dryness in vacuo gave the title compound as a crimson oil (1.5 g, 86%). m/z [ESMS]: 278 [M+H]+.

reactant | 6-(2-[6-methylpyridin-2-yl]-acetyl)quinoxaline | 6.3 mmole, 1.65 g | CC1=CC=CC(=N1)CC(=O)C=1C=C2N=CC=NC2=CC1 | C16H13N3O
reactant | HBr | 6 ml | Br | BrH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 6-[2-(6-Methylpyridin-2-yl)-2-oxo-acetyl]quinoxaline | 1.5 g, 86% | CC1=CC=CC(=N1)C(C(=O)C=1C=C2N=CC=NC2=CC1)=O | C16H11N3O2
